### PR TITLE
[Merged by Bors] - chore: bump to nightly 2022-11-17

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Data/UnionFind.lean [hunk 1]
```diff
@@ -147,7 +147,7 @@ theorem setParent {arr : Array (UFNode α)} {n} {m : UFModel n} (hm : m.Models a
   (i j H hi x) (hp : x.parent = j.1) (hrk : x.rank = arr[i].rank) :
   (m.setParent i j H).Models (arr.set ⟨i.1, hi⟩ x) :=
   ⟨hm.1.set
-      (fun k h => by simp [UFModel.setParent, h.symm])
+      (fun k h => by simp at h; simp [UFModel.setParent, Ne.symm h])
```
Comment (semorrison) [inline Mathlib/Data/UnionFind.lean:150]: This is a bit unfortunate.

File: Mathlib/Data/UnionFind.lean [hunk 2]
```diff
@@ -240,7 +240,9 @@ def findAux (self : UnionFind α) (x : Fin self.size) :
       hm'.setParent x' root (by rw [e]; exact this) hx _ rfl rfl, e,
       ⟨root.2, ?_⟩, le_of_lt this⟩
     have := show x.1 ≠ root from mt (congrArg _) (ne_of_lt this)
-    simp [UFModel.setParent, this, hr]
+    simp only [UFModel.setParent]
+    rw [if_neg this]
+    simp [hr]
```
Comment (semorrison) [inline Mathlib/Data/UnionFind.lean:245]: This too.

**Comment by digama0** [comment]
bors merge
